US08557872B2
Step 5: Synthesis of 3-(2-ethoxy-4-trifluoromethyl-phenyl)-acrylic acid
3-(2-Ethoxy-4-trifluoromethyl-phenyl)-acrylic acid methyl ester (477 mg, 1.74 mmol) was reacted with 1N LiOH (7.5 ml) in THF and CH3OH for 1.5 hrs as described above to yield title compound (440 mg, 97%)

reactant | 3-(2-Ethoxy-4-trifluoromethyl-phenyl)-acrylic acid methyl ester | 1.74 mmol, 477 mg | COC(C=CC1=C(C=C(C=C1)C(F)(F)F)OCC)=O | C13H13F3O3
reactant | LiOH | 1N, 7.5 ml | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
solvent | CH3OH | CO | CH4O
product | 3-(2-ethoxy-4-trifluoromethyl-phenyl)-acrylic acid | 440 mg, 97% | C(C)OC1=C(C=CC(=C1)C(F)(F)F)C=CC(=O)O | C12H11F3O3
